US08067445B2
Step 3: [4′-(6-Ethoxy-pyridin-3-yl)-2′-ethylaminomethyl-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 33, Step 4, using the following starting materials: [4′-(6-ethoxy-pridin-3-yl)-2′-formyl-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester and ethylamine (2M in THF).

reactant | [4′-(6-ethoxy-pridin-3-yl)-2′-formyl-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C=1C=NC(=CC1)OCC)C=O)=O | C25H25NO5
reactant | ethylamine | 2M | C(C)N | C2H7N
product | [4′-(6-Ethoxy-pyridin-3-yl)-2′-ethylaminomethyl-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C=1C=NC(=CC1)OCC)CNCC)=O | C27H32N2O4
